US08735048B2
To a 300 mL-volume Kjeldahl flask, 50 g of benzaldehyde dimethyl acetal and 27.08 g of acetyl chloride were added, and the mixture was stirred at 45° C. for 3 hours. After the reaction, the low boiling point residue was removed under reduced pressure to obtain 49.8 g of α-chlorobenzyl methyl ether.

reactant | benzaldehyde dimethyl acetal | 50 g | COC(C1=CC=CC=C1)OC | C9H12O2
reactant | acetyl chloride | 27.08 g | C(C)(=O)Cl | C2H3ClO
product | α-chlorobenzyl methyl ether | 49.8 g | COC(C1=CC=CC=C1)Cl | C8H9ClO
